US09370515B2
Preparation of 3-(4,5,6-trimethoxybenzo[b]thiophen-2-yl)-N-(3,4-dimethoxyphenyl)imidazo[1,2-b]pyridazin-6-amine
To a solution of 6-chloro-3-(4,5,6-trimethoxybenzo[b]thiophen-2-yl)imidazo[1,2-b]pyridazine (50 mg, 0.133 mmol, 1.0 equiv), xantphos (15 mg, 0.0266 mmol, 0.2 equiv), palladium acetate (2 mg, 0.0133 mmol, 0.1 equiv), and potassium carbonate (367 mg, 2.66 mmol, 20 equiv) in dioxane (5.0 mL) was added 3,4-dimethoxyaniline (20 mg, 0.133 mmol, 1.0 equiv) and heated to 110° C. for 2 h. Purification by column chromatography using 2% methanol in dichloromethane elution gave the product.

reactant | 6-chloro-3-(4,5,6-trimethoxybenzo[b]thiophen-2-yl)imidazo[1,2-b]pyridazine | 0.133 mmol, 50 mg, 1.0 equiv | ClC=1C=CC=2N(N1)C(=CN2)C2=CC1=C(S2)C=C(C(=C1OC)OC)OC | C17H14ClN3O3S
reactant | xantphos | 0.0266 mmol, 15 mg, 0.2 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium carbonate | 2.66 mmol, 367 mg, 20 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dimethoxyaniline | 0.133 mmol, 20 mg, 1.0 equiv | COC=1C=C(N)C=CC1OC | C8H11NO2
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.0133 mmol, 2 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(4,5,6-trimethoxybenzo[b]thiophen-2-yl)-N-(3,4-dimethoxyphenyl)imidazo[1,2-b]pyridazin-6-amine | COC1=C(C(=CC=2SC(=CC21)C2=CN=C1N2N=C(C=C1)NC1=CC(=C(C=C1)OC)OC)OC)OC | C25H24N4O5S
